US07674795B2
Carry out the procedure as in Example 18, starting from 100 mg of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluorene-9(R,S)-amine, obtained in Example 6, and 59 mg of quinoline-5-carboxaldehyde in 1 ml of ethanol for 3 hours at room temperature, then add 29 mg of sodium hydroborate and stir for 2 hours at room temperature. After purification by HPLC/MS on a Symmetry C18 silica column (5 μm), eluting with a gradient of water 100% (containing 0.07% of TFA) to acetonitrile 100% (containing 0.07% of TFA), we obtain 49.5 mg of trifluoroacetate of N-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-yl]-quinolin-5-yl-methylamine, in the form of a pale yellow solid with the following characteristics:

reactant | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluorene-9(R,S)-amine | 100 mg | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C19H14N4
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | quinoline-5-carboxaldehyde | 59 mg | N1=CC=CC=2C(=CC=CC12)C=O | C10H7NO
